US08445509B2
Production of ethyl 2-(2-chlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 64 and using ethyl 2-(2-chlorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (3.4 g, 12 mmol) and methyl trifluoromethanesulfonate (3 mL) as starting materials, the title compound (2.8 g, 81%) was obtained as a white solid.

reactant | ethyl 2-(2-chlorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 12 mmol, 3.4 g | ClC1=C(C=CC=C1)N1NC=C(C1=O)C(=O)OCC | C12H11ClN2O3
reactant | methyl trifluoromethanesulfonate | 3 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
product | ethyl 2-(2-chlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 2.8 g, 81% | ClC1=C(C=CC=C1)N1N(C=C(C1=O)C(=O)OCC)C | C13H13ClN2O3
